US08071778B2
3-(6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridin-2-yl)-1,2,4-oxadiazole.
6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)picolinonitrile (66 mg, 0.162 mmol) was dissolved in ethanol (1 mL) and treated with hydroxylamine (2 ml, 0.364 mmol), heated to reflux and allowed to stir for 2 hours. After cooling, the solvents were evaporated in situ. The resulting sold was dried under vacuum. The white solid was then redissolved in dichloromethane (2 mL), and treated with triethyl orthoformate (0.108 mL, 0.648 mmol) under nitrogen. The solution was then treated with boron trifluoride etherate (2.053 μL, 0.016 mmol) and allowed to stir for 2 hours at room temperature. Upon completion the reaction was concentrated in vacuo and purified via preparatory HPLC to yield the desired product (19.8 mg, 27.1%) as the TFA salt. 1H-NMR (CD3OD, 400 MHz) δ 9.48 (s, 1H), 8.29 (s, 1H), 7.58 (m, 3H), 7.18 (m, 2H), 4.73 (s, 2H), 3.59 (s, 2H), 3.50 (m, 2H), 2.89 (t, 2H), 2.79 (s, 3H), 2.75 (d, 2H), 2.22 (t, 2H), LC: Tr=1.736 min HPLC Method 1. Mass spec.: 451.46 (MH)+.

reactant | 6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)picolinonitrile | 0.162 mmol, 66 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C)COCC1=CC(=CC(=N1)C#N)C(F)(F)F | C21H21F4N3O
reactant | hydroxylamine | 0.364 mmol, 2 ml | NO | H3NO
reactant | triethyl orthoformate | 0.648 mmol, 0.108 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | boron trifluoride etherate | 0.016 mmol, 2.053 μL | B(F)(F)F.CCOCC
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-(6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridin-2-yl)-1,2,4-oxadiazole | 19.8 mg, 27.1% | FC1=CC=C(C=C1)C1(CCN(CC1)C)COCC1=CC(=CC(=N1)C1=NOC=N1)C(F)(F)F | C22H22F4N4O2
